US04493931
A solution of 1.425 g. (5 millimols) diisopropyl N-(2-phenylethyl)-phosphoramidate in 20 ml. diisopropyl ether saturated with hydrogen chloride is stirred overnight at ambient temperature. The precipitate of 2-phenylethylamine hydrochloride formed is filtered off, washed with diisopropyl ether and then dried in vacuo to give 0.75 g. (yield: 95%) of a crystalline solid, the physical and spectral characteristics of which are identical to those of the compound prepared in Example 2.

reactant | diisopropyl N-(2-phenylethyl)-phosphoramidate | 5 millimols | C1(=CC=CC=C1)CCNP(OC(C)C)(OC(C)C)=O | C14H24NO3P
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | hydrogen chloride | Cl | ClH
product | 2-phenylethylamine hydrochloride | Cl.C1(=CC=CC=C1)CCN | InChI=1S/C8H11N.ClH/c9-7-6-8-4-2-1-3-5-8;/h1-5H,6-7,9H2;1H
